US09029392B2
8-Chloro-2-(pyridin-3-yl)quinoline-3-carbaldehyde
A mixture of [8-chloro-2-(pyridin-3-yl)quinolin-3-yl]methanol (0.6 g, 2.2 mmol) and MnO2 (1.0 g) in chlorobenzene (30 mL) was heated at 70° C. overnight, filtered through a celite plug, concentrated in vacuo and washed with DCM to give the title compound (510 mg, 86%) as a white solid.

reactant | [8-chloro-2-(pyridin-3-yl)quinolin-3-yl]methanol | 2.2 mmol, 0.6 g | ClC=1C=CC=C2C=C(C(=NC12)C=1C=NC=CC1)CO | C15H11ClN2O
solvent | chlorobenzene | 30 mL | ClC1=CC=CC=C1 | C6H5Cl
catalyst | MnO2 | 1.0 g | O=[Mn]=O
product | 8-Chloro-2-(pyridin-3-yl)quinoline-3-carbaldehyde | 510 mg, 86% | ClC=1C=CC=C2C=C(C(=NC12)C=1C=NC=CC1)C=O | C15H9ClN2O
